US05298652
Sodium hydroxide hydrolysis of N-(2-ethoxy-2-oxoethyl)-N-[3,5-bis[(11-methoxy-11-oxoundecyl)oxy]benzoyl]glycine ethyl ester gave N-(carboxymethyl)-N-[3,5-bis[(10-carboxydecyl)oxy]benzoyl]glycine, mp 134°-140°.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-ethoxy-2-oxoethyl)-N-[3,5-bis[(11-methoxy-11-oxoundecyl)oxy]benzoyl]glycine ethyl ester | C(C)OC(CN(C(C1=CC(=CC(=C1)OCCCCCCCCCCC(OC)=O)OCCCCCCCCCCC(=O)OC)=O)CC(=O)OCC)=O | C39H63NO11
product | N-(carboxymethyl)-N-[3,5-bis[(10-carboxydecyl)oxy]benzoyl]glycine | C(=O)(O)CN(CC(=O)O)C(C1=CC(=CC(=C1)OCCCCCCCCCCC(=O)O)OCCCCCCCCCCC(=O)O)=O | C33H51NO11
